US09428510B2
0.95 ml (11.21 mmol) of oxalyl chloride and 2 drops of anhydrous dimethylformamide are added to 2.97 g (5.61 mmol) of a solution of 4-(4-methylpiperazin-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoic acid in 95 ml of dichloromethane. The reaction mixture is stirred for 2 hours at room temperature. The solvents are evaporated, the solid formed is taken up in toluene and the solvent evaporated. This operation is repeated three times until a white solid is obtained. The acid chloride is dissolved in 35 ml of anhydrous tetrahydrofuran at −20° C. and then the solution formed is added to a solution containing 1.56 g (5.61 mmol) of 5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-amine and 3.71 ml (21.30 mmol) of N-ethyl-N-isopropylpropan-2-amine in 30 ml of anhydrous tetrahydrofuran. The reaction mixture is stirred for 3 hours at −20° C. and then overnight at room temperature. The precipitate obtained is filtered and rinsed with tetrahydrofuran and water and then dried to yield 2 g (53%) of N-(5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-yl)-4-(4-methylpiperazin-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl) acetamido)benzamide.

reactant | oxalyl chloride | 11.21 mmol, 0.95 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(4-methylpiperazin-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoic acid | CN1CCN(CC1)C1=CC(=C(C(=O)O)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | C19H24F3N3O4
reactant | 5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-amine | 5.61 mmol, 1.56 g | FC=1C=C(C=C(C1)F)SC=1C=C2C(=NC1)NN=C2N | C12H8F2N4S
reactant | N-ethyl-N-isopropylpropan-2-amine | 21.30 mmol, 3.71 ml | C(C)N(C(C)C)C(C)C | C8H19N
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 95 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-(5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-yl)-4-(4-methylpiperazin-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl) acetamido)benzamide | 2 g, 53% | FC=1C=C(C=C(C1)F)SC=1C=C2C(=NC1)NN=C2NC(C2=C(C=C(C=C2)N2CCN(CC2)C)N(C(C(F)(F)F)=O)C2CCOCC2)=O | C31H30F5N7O3S
